US09315438B2
(7) Preparation of (3R,4S,5S,6R)-2-(4-chloro-3-(4-hydroxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol
The crude (3R,4S,5S,6R)-2-(3-(4-((tert-butyldimethylsilyl)oxy)benzyl)-4-chlorophenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (9.0 g) was dissolved in tetrahydrofuran (70 mL). To the resulting solution was added tetrabutyl ammonium fluoride trihydrate (22.1 g, 70 mmol). The resulting mixture was stirred at room temperature for 2 hr, and concentrated under a reduced pressure. To the mixture were added ethyl acetate (400 mL) and water (200 mL). The resulting mixture was separated into an aqueous phase and an organic phase. The organic phase was successively washed with water (200 mL×3) and a saturated sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under a reduced pressure to produce 6.5 g of a crude product, which was directly used in the next reaction without purification.

reactant | (3R,4S,5S,6R)-2-(3-(4-((tert-butyldimethylsilyl)oxy)benzyl)-4-chlorophenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 9.0 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CC=2C=C(C=CC2Cl)C2(O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO)OC)C=C1 | C26H37ClO7Si
reactant | tetrabutyl ammonium fluoride trihydrate | 70 mmol, 22.1 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | (3R,4S,5S,6R)-2-(4-chloro-3-(4-hydroxybenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 6.5 g | ClC1=C(C=C(C=C1)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)O | C20H23ClO7
